data/oMe_Silver.jsonl
{"reaction_id": "NR-223_1-c1ccccc1_2-c1ccc([N+](=O)[O-])cc1_3-C_4-c1ccc(OC)cc1","level": "medium","name": "Pinacol Rearrangement","reactants_smiles": ["C(c1ccccc1)(c1ccc([N+](=O)[O-])cc1)(O)C(O)(C)(c1ccc(OC)cc1)"],"products_smiles": ["C(=O)(c1ccccc1)C(c1ccc([N+](=O)[O-])cc1)(C)(c1ccc(OC)cc1)"],"conditions": "H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(c1ccc([N+](=O)[O-])cc1)(O)C([OH2+])(C)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting OH into water, aided by the acidic medium."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(c1ccccc1)(c1ccc([N+](=O)[O-])cc1)(O)[C+](C)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "Water departs as a neutral, stable molecule, generating a carbocation stabilized by adjacent oxygen through inductive and resonance effects."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=O)(c1ccccc1)C(c1ccc([N+](=O)[O-])cc1)(C)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "A 1,2-alkyl shift occurs to form a more stable carbocation adjacent to oxygen, enabling resonance stabilization and subsequent ketone formation."}],"description": "Under acidic aqueous conditions, the diol undergoes protonation to activate one hydroxyl group, followed by loss of water to generate a carbocation. A 1,2-alkyl shift then stabilizes the cation via resonance with the adjacent oxygen, yielding the rearranged ketone."}
{"reaction_id": "NR-126_1-C(C)C","name": "Kornblum Oxidation","level": "medium","reactants_smiles": ["C(C(C)C)Cl","C[S+]([O-])C"],"products_smiles": ["C(C(C)C)=O"],"conditions": "CCN(CC)CC","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C(C)C)O[S+](C)C","rationale": "The sulfoxide oxygen is nucleophilic due to its lone pairs and polarization; it attacks the electrophilic carbon bearing the good leaving group Cl, favored by the polar aprotic amine solvent that stabilizes the transition state."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)C)O[S+](C)[CH2-]","rationale": "The basic environment provided by the tertiary amine abstracts the acidic α-proton adjacent to the positively charged sulfur, driven by stabilization of the resulting carbanion through the adjacent sulfonium group."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C(C)C)=O","rationale": "The carbanion collapses, expelling the neutral dimethyl sulfide leaving group; this elimination is favored by the stability of the carbonyl product and the volatility of the leaving group."}],"description": "In the Kornblum oxidation, dimethyl sulfoxide acts as a nucleophile toward an alkyl halide, forming an alkoxysulfonium intermediate. Under basic conditions, deprotonation facilitates elimination of a sulfenic species, yielding the carbonyl product via a mild, non-aqueous oxidation pathway."}
